US07067667B2
7-(N-tert-Butoxycarbonyl-3-chlorobenzylamino)-1,2,3,3a,7,8,9,10b-octahydrodicyclopenta[c,g]quinoline-4-thione
A solution of 100 mg (0.21 mmol) of 7-(N-tert-butoxycarbonyl-3-chlorobenzyl-amino)-1,2,3,3a,7,8,9,10b-octahydro-dicyclopenta[c,g]quinolin-4-one and 96 mg (0.23 mmol) of Lawesson's reagent in 10 ml of DME is stirred for 2 hours at room temperature. After concentration by evaporation, the residue is purified by column chromatography on silica gel with hexane-ethyl acetate: 70 mg of product.

reactant | 7-(N-tert-butoxycarbonyl-3-chlorobenzyl-amino)-1,2,3,3a,7,8,9,10b-octahydro-dicyclopenta[c,g]quinolin-4-one | 0.21 mmol, 100 mg | C(C)(C)(C)OC(=O)N(C1CCC2=CC=3C4C(C(NC3C=C21)=O)CCC4)CC4=CC(=CC=C4)Cl | C27H31ClN2O3
reactant | Lawesson's reagent | 0.23 mmol, 96 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 7-(N-tert-Butoxycarbonyl-3-chlorobenzylamino)-1,2,3,3a,7,8,9,10b-octahydrodicyclopenta[c,g]quinoline-4-thione | C(C)(C)(C)OC(=O)N(C1CCC2=CC=3C4C(C(NC3C=C21)=S)CCC4)CC4=CC(=CC=C4)Cl | C27H31ClN2O2S
